US06441017B1
Step B: 1-Iodo-7-(triisopropylsilyloxy)naphthalene
1-Iodo-7-hydroxynaphthalene, as described in Step A, (15.84 g, 58.65 mmol), imidazole (5.59 g, 82.11 mmol) and triisopropylsilyl chloride (17.6 mL, 82.11 mmol) were dissolved in DMF (40 mL) and heated to 40° C. for 18 hours. The reaction was poured into H2O and extracted with hexanes (3×). The combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo, to yield the above-titled compound.

reactant | 1-Iodo-7-hydroxynaphthalene | IC1=CC=CC2=CC=C(C=C12)O | C10H7IO
reactant | imidazole | 58.65 mmol, 15.84 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilyl chloride | 82.11 mmol, 17.6 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | H2O | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 1-Iodo-7-(triisopropylsilyloxy)naphthalene | IC1=CC=CC2=CC=C(C=C12)O[Si](C(C)C)(C(C)C)C(C)C | C19H27IOSi
